* C:\users\casa\My Documents\LTspiceXVII\LTSpice\E_Class\E.asc
M1 N001 N006 0 0 IPW60R031CFD7
L1 N001 Vs {Lc}
C1 N001 0 {Cp}
L2 N001 N002 {L1}
C2 N003 N002 {C1}
L3 N003 0 {Lp}
L4 N004 0 {Ls}
L5 N005 N004 {L2}
XU4 N005 0 CRYSTAL_9_OVERTONE Freq={Freq} C0=11n K=300 Rm1=20 rm3=50 rm5=100 rm7=150 rm9=200 ic1=10u ic3=10u ic5=10u ic7=10u ic9=10u
V1 Vs 0 {Vs}
V2 N006 0 PULSE(0 15 0 10n 10n {1/Freq/2} {1/freq})
D1 0 N001 RFUS20TF6S
.model D D
.lib C:\users\casa\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\casa\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L3 L4 1
.param Lp=9.3m Ls=15m Cp=18n L1=1070u L2=500u C1=4.5u Vs=100
.tran 100m startup
.param Lc (2*(pi**2/4+1)*(40/{Freq}))
.param Freq 40k
.lib Sborka.lib
.backanno
.end
